US04279918
Heat 20 g of 2-(4-chlorobenzoyl)pyrrole, 15 g of hydrazine hydrate, 28 g of potassium hydroxide and 100 ml of diethylene glycol to 150° for 2 hours. Allow the mixture to cool. Dilute it with water to twice its volume. Add hydrochloric acid to it until its pH is about 3 before extracting it with diethyl ether. Free the organic phase from solvent to obtain 2-(4-chlorobenzyl)pyrrole as oil remaining behind. Dissolve the oil in 25 ml of ethanol, and add this solution dropwise to a boiling mixture of 150 ml of 20% strength hydrochloric acid and zinc amalgum (prepared from 100 g of zinc, 10 g of mercury chloride and 150 ml of 0.5 N hydrochloric acid). Then add a further 200 ml of 20% strength hydrochloric acid and 50 g of amalgam and boil the resulting reaction mixture for a further 4 hours. Allow the mixture to cool, filter it, extract the filtrate with ethyl acetate (5×200 ml), concentrate the organic solution, add 6 N sodium hydroxide solution to the concentrate until zinc salts therein dissolve, and then extract with diethyl ether. Concentrate the ether solution. Dissolve the oil remaining behind in 200 ml of ethanol and hydrogenate on Pt/C contact. Filter the catalyst from the hydrogenated product. Concentrate the filtrate and then distil the concentrate under a vacuum to obtain the title compound [b.p. 76° to 79° at 0.005 mm of Hg]. The hydrochloric melts at 190° to 192°.

reactant | 2-(4-chlorobenzoyl)pyrrole | 20 g | ClC1=CC=C(C(=O)C=2NC=CC2)C=C1 | C11H8ClNO
reactant | hydrazine hydrate | 15 g | O.NN
reactant | potassium hydroxide | 28 g | [OH-].[K+]
reactant | diethylene glycol | 100 ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | 2-(4-chlorobenzyl)pyrrole | ClC1=CC=C(CC=2NC=CC2)C=C1 | C11H10ClN
